US05977101
a) 2-Amino-6-methyl-3-nitropyridine
2-Amino-6-picoline (5.1 g, 47.1 mmol) was weighed into a 500 mL round bottom flask, and the flask was cooled to -30° C. Concentrated H2SO4 (20 mL) was added, which caused some fuiming to occur. Concentrated HNO3 (10 mL, 160 mmol) was then added dropwise slowly. The reaction was allowed to warm to RT over 30 min, then was heated in an oil bath set at 80° C. After 90 min, the reaction was removed from the heating bath, and ice was added. 6.25 N NaOH (150 mL, 937.5 mmol) was added slowly, and the resulting yellow precipitate was collected on a sintered glass funnel. Drying in a vacuum desiccator gave the title compound (1.7 g, 24%): TLC Rf (5% MeOH/CHCl3) 0.77; 1H NMR (250 MHz, CDCl3) δ 8.31 (d, 1H), 6.32 (d, 1H), 2.46 (s, 3H); MS (ES) m/e 154.0 (M+H)+.

reactant | 2-Amino-6-picoline | 47.1 mmol, 5.1 g | NC1=NC(=CC=C1)C | C6H8N2
reactant | HNO3 | 160 mmol, 10 mL | [N+](=O)(O)[O-] | HNO3
reactant | NaOH | 937.5 mmol, 6.25 N, 150 mL | [OH-].[Na+]
solvent | H2SO4 | 20 mL | OS(=O)(=O)O | H2O4S
product | 2-Amino-6-methyl-3-nitropyridine | 1.7 g, 24% | NC1=NC(=CC=C1[N+](=O)[O-])C | C6H7N3O2
